US08686000B2
Preparation of O-[1-(2,2-difluoroethyl)-3-(2-iodophenyl)-2,2-dioxido-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-yl] S-methyl thiocarbonate (compound I-c-16)
150 mg (0.3 mmol) of 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-ol 2,2-dioxide (compound I-a-14) were dissolved in 5 ml of dichloromethane, and 0.04 ml (0.48 mmol) of pyridine was added at RT. The reaction mixture was stirred at RT for 5 min, and then 0.03 ml (0.38 mmol) of methyl chlorothioformate was added and the mixture was stirred at RT for a further 4 h. After removing the solvent under reduced pressure, the residue was purified by column chromatography (SiO2, gradient ethyl acetate/n-heptane 10:90 to 75:25). This gave 144 mg of compound I-c-16.

reactant | 1-(2,2-difluoroethyl)-3-(2-iodophenyl)-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-ol 2,2-dioxide | 0.3 mmol, 150 mg | FC(CN1S(C(=C(C2=C1N=CS2)O)C2=C(C=CC=C2)I)(=O)=O)F | C13H9F2IN2O3S2
reactant | pyridine | 0.48 mmol, 0.04 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chlorothioformate | 0.38 mmol, 0.03 ml | ClC(=S)OC | C2H3ClOS
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | O-[1-(2,2-difluoroethyl)-3-(2-iodophenyl)-2,2-dioxido-1H-[1,3]thiazolo[4,5-c][1,2]thiazin-4-yl] S-methyl thiocarbonate | C(OC=1C2=C(N(S(C1C1=C(C=CC=C1)I)(=O)=O)CC(F)F)N=CS2)(SC)=O | C15H11F2IN2O4S3
